US06642229B2
Cyclobutyl methyl ketone was converted to 1-cyclobutyl-3,3-diethoxypropan-1-one as described in Example 4 and condensed with 2-aminoimidazole hemisulfate as described in Example 1 to give 7-cyclobutylimidazo[1,2-a]pyrimidine as an orange solid: δH (400 MHz, CDCl3) 1.90-2.55 (6H, m), 3.71 (1H, quintet, J 8), 6.73 (1H, d, J 7), 7.45 (1H, d, J 1), 7.72 (1H, d, J 1), 8.30 (1H, dd, J 7 and 3).

reactant | Cyclobutyl methyl ketone | CC(=O)C1CCC1 | C6H10O
reactant | 1-cyclobutyl-3,3-diethoxypropan-1-one | C1(CCC1)C(CC(OCC)OCC)=O | C11H20O3
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 7-cyclobutylimidazo[1,2-a]pyrimidine | C1(CCC1)C1=NC=2N(C=C1)C=CN2 | C10H11N3
